US08710043B2
A 250-mL round-bottomed flask was charged with 2-iodopyridine (1.0 g, 4.88 mmol) and 50 mL of THF. The resulting mixture was cooled to −100° C. and then n-BuLi (2.5 M in hexanes, 5.3 mL, 13 mmol) was added at such a rate that the internal temp did not rise above −97° C. After 15 min at −100° C., (E)-N-(3,4-dichlorobenzylidene)-2-methylpropane-2-sulfinamide (1.36 g, 4.88 mmol) was added and stirring was continued for 1 h at −100° C. 30 mL of 1M HCl in ether was added, and the mixture was allowed to warm to rt. Once at rt, 5 mL of MeOH was added and the mixture was stirred for an additional 1 h. The resulting precipitate was collected by filtration to give (3,4-dichlorophenyl)(pyridin-2-yl)-methanamine hydrochloride as a white solid.

reactant | 2-iodopyridine | 4.88 mmol, 1.0 g | IC1=NC=CC=C1 | C5H4IN
reactant | n-BuLi | 13 mmol, 2.5 M, 5.3 mL | [Li]CCCC
reactant | (E)-N-(3,4-dichlorobenzylidene)-2-methylpropane-2-sulfinamide | 4.88 mmol, 1.36 g | ClC=1C=C(\C=N\S(=O)C(C)(C)C)C=CC1Cl | C11H13Cl2NOS
reactant | HCl | 1M, 30 mL | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | MeOH | 5 mL | CO | CH4O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (3,4-dichlorophenyl)(pyridin-2-yl)-methanamine hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C(N)C1=NC=CC=C1 | InChI=1S/C12H10Cl2N2.ClH/c13-9-5-4-8(7-10(9)14)12(15)11-3-1-2-6-16-11;/h1-7,12H,15H2;1H
